US05470896
200 ml of toluene, 54.8 g (0.4 mol) of 3-dimethylaminophenol and 13.58 g (0.04 mol) of tetrabutylammonium hydrogen sulfate are placed in a 750 ml sulfonating flask having an anchor mixer, thermometer, reflux condenser and dropping funnel and at RT 80 g (1.0 mol) of a 50% aqueous NaOH solution are added dropwise in the course of 30 minutes. The suspension is then stirred for 30 minutes at 80° C. and then at the same temperature 154 g (0.8 mol) of octyl bromide are added in the course 45 minutes. After a subsequent reaction period of 2.5 hours the mixture is cooled and filtered, and the filtrate is washed with 1×70 ml of H2O, dried over MgSO4, filtered and concentrated by evaporation. The crude product is distilled under a high vacuum, yielding 65.5 g of 3-dimethylaminophenyloctyl ether in the form of a colourless liquid having a boiling point of 150°-152 ° C. (0.1 mbar) which no longer has an OH band in the IR spectrum and of which the NMR analysis is in agreement with the sand structure.

reactant | 3-dimethylaminophenol | 0.4 mol, 54.8 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | NaOH | [OH-].[Na+]
reactant | octyl bromide | 0.8 mol, 154 g | C(CCCCCCC)Br | C8H17Br
catalyst | tetrabutylammonium hydrogen sulfate | 0.04 mol, 13.58 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-dimethylaminophenyloctyl ether | 65.5 g | CN(C=1C=C(C=CC1)CCCCCCCCOCCCCCCCCC1=CC(=CC=C1)N(C)C)C | C32H52N2O
